US04535182
In the same apparatus as in Example 1, 3-hydroxy-2-n-pentyl-3-methyl-4-cyclopentenone (18.2 g) and acetic acid (55 ml) were charged and heated under reflux for 15 hours with agitation. After the completion of the reaction, acetic acid was evaporated off under reduced pressure. The residue was extracted with toluene (80 ml) and water (50 ml) and treated as in Example 1 to obtain 2-n-pentyl-3-methyl-4-acetoxy-2-cyclopentenone (20.6 g). Yield, 92%. B.P., 125°-135° C./0.2-0.5 mmHg.

reactant | 3-hydroxy-2-n-pentyl-3-methyl-4-cyclopentenone | 18.2 g | OC1(C(C(C=C1)=O)CCCCC)C | C11H18O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic acid | 55 ml | C(C)(=O)O | C2H4O2
product | 2-n-pentyl-3-methyl-4-acetoxy-2-cyclopentenone | 20.6 g | C(CCCC)C=1C(CC(C1C)OC(C)=O)=O | C13H20O3
